US04062961
Alternatively, 7,8-dichloro-1-methylisoquinoline is prepared by the following procedure. 7,8-Dichloroisoquinoline (0.019 mole) in 100 ml. of dimethylsulfoxide is added to a solution of sodium hydride (0.11 mole) in 100 ml of dimethylsulfoxide at 70° C. The reaction mixture is stirred at 70° C. for four hours under a nitrogen atmosphere. The reaction mixture is cooled, 100 ml. of water is added, and the mixture is poured into 1500 ml. of water. The aqueous mixture is extracted with benzene. The extract is washed, dried over sodium sulfate and evaporated to give 7,8-dichloro-1-methylisoquinoline.

reactant | 7,8-Dichloroisoquinoline | 0.019 mole | ClC1=CC=C2C=CN=CC2=C1Cl | C9H5Cl2N
reactant | sodium hydride | 0.11 mole | [H-].[Na+]
reactant | water | O | H2O
reactant | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 7,8-dichloro-1-methylisoquinoline | ClC1=CC=C2C=CN=C(C2=C1Cl)C | C10H7Cl2N
